US04517180
A 12.66 g portion of the BzMePhe was dissolved in 120 ml of acetic acid and 47 ml of HCl, and the solution was subjected to hydrogen catalytic reduction (room temperature, 8 hours) with addition of 5.0 g of 10% palladium-carbon catalyst. After separating off the catalyst by filtration, the filtrate was concentrated in vacuo, and the concentrate was recrystallized from ethanol (50 ml)-ether (500 ml) to give 7.93 g of MePhe, yeild 94.1%. M.p. 225° C.

reactant | BzMePhe | C(=O)(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C17H17NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 47 ml | Cl | ClH
catalyst | palladium-carbon | 5.0 g | [C].[Pd]
product | MePhe | 7.93 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C10H13NO2
